US04643999
A stirred solution of 11 g of 2-benzoyl-7-methoxyimi-dazo[1,2-c]pyrimidin-5-one in 33 ml of dry dimethylformamide was treated with 1.27 g of 80% of sodium hydride and was stirred for another hour. 8 g of iodoethane were added dropwise over 10 minutes and stirring was continued for two hours after which the mixture was poured into iced water. The mixture was filtered to obtain 2.3 g of 6-ethyl-7-methoxyimidazo[1,2-c]pyrimidin-5-one as a yellow crystalline solid melting at 159°-60° C.

reactant | 2-benzoyl-7-methoxyimi-dazo[1,2-c]pyrimidin-5-one | 11 g | C(C1=CC=CC=C1)(=O)C1=NC=2N(C(N=C(C2)OC)=O)C1 | C14H11N3O3
reactant | sodium hydride | 1.27 g | [H-].[Na+]
reactant | iodoethane | 8 g | ICC | C2H5I
reactant | water | O | H2O
solvent | dimethylformamide | 33 ml | CN(C=O)C | C3H7NO
product | 6-ethyl-7-methoxyimidazo[1,2-c]pyrimidin-5-one | 2.3 g | C(C)N1C(N2C(C=C1OC)=NC=C2)=O | C9H11N3O2
